US07015218B1
2-Chloro-5-nitrobenzonitrile (15 g) and piperazinoethanol (16 g) were added to ethanol (100 ml) and the mixture was stirred at a refluxing temperature for 1 h. The solvent was evaporated under reduced pressure. To the residue was added aqueous sodium hydroxide solution and the mixture was extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure. To the residue diisopropyl ether was added to allow crystallization. The crystals were recrystallized from hydrous ethanol to give 5-nitro-2-(2-hydroxyethylpiperazin-1-yl)benzonitrile (18.7 g), melting point 100–102° C.

reactant | 2-Chloro-5-nitrobenzonitrile | 15 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | piperazinoethanol | 16 g | N1(CCNCC1)C(C)O | C6H14N2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 5-nitro-2-(2-hydroxyethylpiperazin-1-yl)benzonitrile | 18.7 g | [N+](=O)([O-])C=1C=CC(=C(C#N)C1)N1C(CNCC1)CCO | C13H16N4O3
